* Redressement simple alternance teleinfo

.MODEL PC817opto D
+ IS = 1E-6
+ BV = 6
+ N = 4

.MODEL 1N4148 D 
+ IS = 4.352E-9 
+ N = 1.906 
+ BV = 110 
+ IBV = 0.0001 
+ RS = 0.6458 
+ CJO = 7.048E-13 
+ VJ = 0.869 
+ M = 0.03 
+ FC = 0.5 
+ TT = 3.48E-9

.tran 0.05us 3.2ms
.plot tran v(1) v(3) v(3)-v(2)
.END

V1 i1 0 sin(0 12 50kHz)
Rdummy1 i1 0 1000k
V2 pulse1 0 PULSE(0 1 0 0 0 833us 1.666ms)
Rdummy2 pulse1 0 1000k
B1 1 0 V=V(i1)*V(pulse1)
R1 1 2 750
D1 2 3 1N4148
C1 3 0 22nF
R2 3 4 2.5k
DoptoLED 4 0 1N4148
